US05028738
Methanol (25 ml) was added to 2.20 g (10 mmoles) of p-isobutylphenylpyruvic acid to dissolve it completely. With ice cooling, a 3N aqueous solution of sodium hydroxide (7 ml; 21.0 mmoles) was added. Then, 2.0 ml of methyl iodide was added, and the mixture was stirred at room temperature for 13 hours. The reaction mixture was acidified by adding 1N hydrochloric acid and extracted with 90 ml of ether. The ether layer was dried over magnesium sulfate and the ether was evaporated under reduced pressure to give a pale red oil. The NMR spectral analysis of this product led to the determination that this product was nearly pure 2-oxo-3-(p-isobutylphenyl)butanoic acid. A 3N aqueous solution of sodium hydroxide (4.0 ml) was added to this product, and the mixture was concentrated under reduced pressure. Ether was added to the resulting pale yellowish white solid. By filtration, 1.87 g (yield 76 %) of sodium 2-oxo-3-(p-isobutylphenyl)butanoate was isolated.

reactant | p-isobutylphenylpyruvic acid | 10 mmoles, 2.20 g | C(C(C)C)C1=CC=C(C=C1)CC(C(=O)O)=O | C13H16O3
reactant | sodium hydroxide | 21.0 mmoles, 7 ml | [OH-].[Na+]
reactant | methyl iodide | 2.0 ml | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 2-oxo-3-(p-isobutylphenyl)butanoic acid | O=C(C(=O)O)C(C)C1=CC=C(C=C1)CC(C)C | C14H18O3
reactant | sodium hydroxide | 4.0 ml | [OH-].[Na+]
solvent | Methanol | 25 ml | CO | CH4O
product | sodium 2-oxo-3-(p-isobutylphenyl)butanoate | 1.87 g, yield 76 % | O=C(C(=O)[O-])C(C)C1=CC=C(C=C1)CC(C)C.[Na+] | InChI=1S/C14H18O3.Na/c1-9(2)8-11-4-6-12(7-5-11)10(3)13(15)14(16)17;/h4-7,9-10H,8H2,1-3H3,(H,16,17);/q;+1/p-1
